US08138178B2
5-bromo-1-isopropylpyridin-2(1H)-one was prepared from 5-bromopyridin-2(1H)-one and isopropyl iodide following a procedure analogous to that described in Example 59 Step 1.

reactant | 5-bromopyridin-2(1H)-one | BrC=1C=CC(NC1)=O | C5H4BrNO
reactant | isopropyl iodide | C(C)(C)I | C3H7I
product | 5-bromo-1-isopropylpyridin-2(1H)-one | BrC=1C=CC(N(C1)C(C)C)=O | C8H10BrNO
